US06069143
a)4-(1-N-trifluoroacetyl-4-piperazinyl)nitrophenol
Trifluoroacetic anhydride (7.5 mL, 48.5 mmol) was added to a cooled solution of 4-piperazinylnitrophenol (10 g, 48.3 mmol) and Et3N (13.5 mL, 96 mmol) in CH2Cl2 (100 mL). Reaction was stirred at RT for 1 h. Solution was washed consecutively with 5% NaHCO3, H2O, 5% citric acid and H2O. The organic layer was concentrated. The crude was purified by flash chromatography (silica gel, EtOAc/Hexane (1/1) to yield the title compound (12.1 g, 83%). MS (ES) m/e 304 [M+H]+.

reactant | Trifluoroacetic anhydride | 48.5 mmol, 7.5 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 4-piperazinylnitrophenol | 48.3 mmol, 10 g | N1(CCNCC1)C1=CC(=C(C=C1)O)[N+](=O)[O-] | C10H13N3O3
reactant | Et3N | 96 mmol, 13.5 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-(1-N-trifluoroacetyl-4-piperazinyl)nitrophenol | 12.1 g, 83% | FC(C(=O)N1CCN(CC1)C1=CC(=C(C=C1)O)[N+](=O)[O-])(F)F | C12H12F3N3O4
